US04482723
2-Chloro-1,1-dimethoxy-3-butanone
To a solution of 297 g (5.5 mole) sodium methoxide in 5 liters of methanol at 0° C., is added in a slow stream 695 g (5.0 mole) 1,2-dichloro-1-buten-3-one. After the addition is complete, the mixture is stirred at 0° C. for one hour, an additional 54 g (1.0 mole) sodium methoxide is added, and stirring continued at 0° C. for one hour. The mixture is allowed to stir at room temperature overnight, another g mole of sodium methoxide added and stirring continued for an hour. The mixture is filtered (filter aid) to remove salts, washing with fresh methanol. The filtrate is concentrated in vacuo to a slurry which is taken up in isopropyl ether and washed in turn with water, saturated sodium bicarbonate solution and brine, then dried over anhydrous magnesium sulfate. The extract is concentrated in vacuo to provide a residual oil which is distilled in vacuo to afford a main fraction of 628 g (75%) of product, B.P. 66°-75° C. at 8 mm. 1H-NMR (CDCl3) ppm (delta): 2.33 (s, 3H), 3.43 (s, 3H), 3.47 (s, 3H), 4.23 (d, 1H), 4.63 (d, 1H).

reactant | sodium methoxide | 5.5 mole, 297 g | C[O-].[Na+]
reactant | 1,2-dichloro-1-buten-3-one | 5.0 mole, 695 g | ClC=C(C(C)=O)Cl | C4H4Cl2O
reactant | sodium methoxide | 1.0 mole, 54 g | C[O-].[Na+]
reactant | methanol | 5 liters | CO | CH4O
product | 2-Chloro-1,1-dimethoxy-3-butanone | 628 g, 75% | ClC(C(OC)OC)C(C)=O | C6H11ClO3
